US06521643B1
To a suspension of 4-(4-methylpyridin-2-yl)benzaldehyde (425 mg) in ethanol (5 ml) was added hydroxylamine hydrochloride (224 mg), and the mixture was stirred at 60° C. for 1 hour. After cooling, the mixture was poured into a saturated aqueous sodium hydrogencarbonate solution and extracted with dichloromethane. The organic layer was washed with water and brine, dried over sodium sulfate and evaporated under reduced pressure to give 4-(4-methylpyridin-2-yl)benzaldehyde oxime (0.43 g).

reactant | 4-(4-methylpyridin-2-yl)benzaldehyde | 425 mg | CC1=CC(=NC=C1)C1=CC=C(C=O)C=C1 | C13H11NO
reactant | hydroxylamine hydrochloride | 224 mg | Cl.NO
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 4-(4-methylpyridin-2-yl)benzaldehyde oxime | 0.43 g | CC1=CC(=NC=C1)C1=CC=C(C=NO)C=C1 | C13H12N2O
